US07872036B2
0.8 g of 2,2,2-trifluoroethylmercaptan was added dropwise under cooling with ice to a mixture of 1.6 g of 4-(3-nitro-1,2,4-triazolyl)-2-fluorobenzaldehyde, 1.3 g of potassium carbonate and 50 ml of N,N-dimethylformamide, followed by stirring at from 0 to 10° C. for 4 hours. The mixture was concentrated under reduced pressure, 200 ml of water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 1.8 g of 4-(3-nitro-1,2,4-triazolyl)-2-(2,2,2-trifluoroethylthio)benzaldehyde.

reactant | 2,2,2-trifluoroethylmercaptan | 0.8 g | FC(CS)(F)F | C2H3F3S
reactant | 4-(3-nitro-1,2,4-triazolyl)-2-fluorobenzaldehyde | 1.6 g | [N+](=O)([O-])C1=NNC(=N1)C1=CC(=C(C=O)C=C1)F | C9H5FN4O3
reactant | potassium carbonate | 1.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(3-nitro-1,2,4-triazolyl)-2-(2,2,2-trifluoroethylthio)benzaldehyde | 1.8 g | [N+](=O)([O-])C1=NNC(=N1)C1=CC(=C(C=O)C=C1)SCC(F)(F)F | C11H7F3N4O3S
